US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(dimethylamino)benzamido)-4-phenylbenzoate (0.063 g) in methanol (1.5 mL) and ethyl acetate (2.5 mL), 10% palladium-carbon (32 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. To the reaction mixture, 10% palladium-carbon (13 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 1 hour and 30 minutes. Ethyl acetate was added to the reaction mixture. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain 0.036 g of tert-butyl 2-(5-(dimethylamino)-2-hydroxybenzamido)-4-phenylbenzoate.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(dimethylamino)benzamido)-4-phenylbenzoate | 0.063 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N(C)C | C33H34N2O4
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 32 mg | [C].[Pd]
catalyst | palladium-carbon | 13 mg | [C].[Pd]
product | tert-butyl 2-(5-(dimethylamino)-2-hydroxybenzamido)-4-phenylbenzoate | 0.036 g | CN(C=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)O)C | C26H28N2O4
